US07253165B2
Synthesis of 6-fluoro-3-(4-methoxy-phenyl)-benzo[d]isoxazole (Scheme I, Compound 10 and Scheme V, Compound 6)
Combine (2,4-difluoro-phenyl)-(4-methoxy-phenyl)-methanone oxime (277.5 g, 1.05 mol), water (200 mL) and isopropyl alcohol (1140 mL) and heat (˜75-80° C.) under a nitrogen atmosphere. Add 45% potassium hydroxide (591.5 g), in one portion, followed by water (75 mL). Immediate exotherm to 82° C. Continue heating for 5.3 hours. Cool reaction mixture to room temperature overnight. Cool reaction mixture in an ice bath, filter and wash (2×250 mL) filter cake with a cold mixture of isopropyl alcohol and water (20:80). Let filter cake dry to the air to give the title compound (182.7 g, 73% Yield): 1H NMR (CDCl3, 200 MHz) δ 3.9 (s, 3H), 7.1 (m, 3H), 7.3 (m, 1H), 7.85 (m, 3H). Purity by LC/MS (APCl)=100% area, [M+H]+=244 m/e.

reactant | (2,4-difluoro-phenyl)-(4-methoxy-phenyl)-methanone oxime | 1.05 mol, 277.5 g | FC1=C(C=CC(=C1)F)C(=NO)C1=CC=C(C=C1)OC | C14H11F2NO2
reactant | isopropyl alcohol | 1140 mL | C(C)(C)O | C3H8O
reactant | potassium hydroxide | 591.5 g | [OH-].[K+]
solvent | water | 75 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 6-fluoro-3-(4-methoxy-phenyl)-benzo[d]isoxazole | 182.7 g, 73% Yield | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC)C=C1 | C14H10FNO2
